US09216173B2
To a solution of ethyl difluoroacetate (500 g, 4.03 mol) in THF (4000 mL) was added dibromomethane (840 g, 4.83 mol) followed by n-BuLi (2.5 M in hexanes, 1920 mL, 4.8 mol) dropwise at −78° C. over a period of 2 hours. After 3 hours post-addition, the reaction mixture was quenched with saturated aqueous ammonium chloride (2500 mL) at −78° C., and then warmed to ambient temperature and extracted with THF (2000 mL). The organics were dried over anhydrous sodium sulfate and filtered. To the filtrate was added sodium borohydride (102 g, 2.68 mol) in several batches at 0-5° C. over a period of 3 hours. After 2 hours, the reaction mixture was quenched with acetic acid (40 g) and water (100 mL). To this mixture was added dropwise sodium azide (6.67 M solution in water, 600 mL, 4.00 mol), and the reaction mixture was heated to 60° C. After 16 hours, triphenylphosphine (3.21 M solution in THF, 1500 mL, 4.81 mol) was added dropwise. After 16 hours, the reaction mixture was diluted with water (5500 mL) and filtered. The filtrate was extracted with DCM (3×2500 mL). To the organics were added potassium carbonate (12 g, 87 mmol) and N-(benzyloxycarbonyloxy)succinimide (2.0 M solution in acetone, 2000 mL, 4.0 mol). After 16 hours, the reaction mixture was partially concentrated under reduced pressure and then extracted with DCM (3×3000 mL). The organics were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified via chromatography on silica gel (10-20% ethyl acetate/petroleum ether, linear gradient) to afford benzyl (3,3-difluoro-2-hydroxypropyl)carbamate.

reactant | ethyl difluoroacetate | 4.03 mol, 500 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | dibromomethane | 4.83 mol, 840 g | BrCBr | CH2Br2
reactant | n-BuLi | 4.8 mol, 2.5 M, 1920 mL | [Li]CCCC
reactant | sodium borohydride | 2.68 mol, 102 g | [BH4-].[Na+]
reactant | sodium azide | 4.00 mol, 6.67 M, 600 mL | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 4.81 mol, 3.21 M, 1500 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 87 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(benzyloxycarbonyloxy)succinimide | 4.0 mol, 2.0 M, 2000 mL | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | THF | 4000 mL | C1CCOC1 | C4H8O
solvent | water | 5500 mL | O | H2O
product | benzyl (3,3-difluoro-2-hydroxypropyl)carbamate | FC(C(CNC(OCC1=CC=CC=C1)=O)O)F | C11H13F2NO3
